US05198014
At 30° C. a solution of 0.6 gram (0.002 mole) of 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylic acid chloride in 15 mL of tetrahydrofuran was added in portions to a stirred solution of 0.2 gram (0.002 mole) of acetone oxime, 0.3 gram (0.003 mole) of triethylamine, and a catalytic amount of 4-dimethylaminopyridine in 35 mL of toluene. Upon completion of the addition, the reaction mixture was stirred at 30° C. for five hours. After this time, the reaction mixture was diluted with water, and the pH was adjusted to about 3.0 with concentrated hydrochloric acid. The organic layer was separated and washed with an aqueous sodium chloride solution and then with water. The organic layer was concentrated under reduced pressure to a residual solid. The solid was subjected to column chromatography on silica gel with 1:1 hexane/ethyl acetate as eluant. Those fractions found by thin layer chromatography to contain a major constituent other than eluent and starting materials were combined and concentrated at 40° C. under reduced pressure, yielding 0.2 gram of isopropylideneamino 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylate. The nmr spectrum was consistent with the proposed structure.

reactant | 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylic acid chloride | 0.002 mole, 0.6 gram | C(#N)C=1C=NN(C1C=CC(=O)Cl)C1=NC=C(C=C1Cl)C(F)(F)F | C13H5Cl2F3N4O
reactant | acetone oxime | 0.002 mole, 0.2 gram | CC(C)=NO | C3H7NO
reactant | triethylamine | 0.003 mole, 0.3 gram | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | isopropylideneamino 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylate | 0.2 gram | C(#N)C=1C=NN(C1C=CC(=O)ON=C(C)C)C1=NC=C(C=C1Cl)C(F)(F)F | C16H11ClF3N5O2
